US04654343
N-Methyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide
A mixture of 3.58 g of N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide, 0.71 g of sodium hydride (50% in oil) and 200 ml of dimethylformamide was stirred under argon, for 1 hour. A 0.92 ml portion of methyl iodide was added and the mixture was stirred overnight. A 0.355 g portion of sodium hydride (50% in oil) and 0.46 ml of methyl iodide were added and stirring was continued overnight. The mixture was poured into 200 ml of water and extracted with 150 ml portions of dichloromethane. The extracts were combined, dried and evaporated in vacuo. The residue was crystallized from ethyl acetate-hexane, giving 1.60 g of the desired product as light orange crystals, mp 146°-150° C.

reactant | N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide | 3.58 g | N=1N=CN2N=C(C=CC21)C=2C=C(C=CC2)NC(CC)=O | C14H13N5O
reactant | sodium hydride | 0.71 g | [H-].[Na+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | CI | CH3I
reactant | methyl iodide | 0.46 ml | CI | CH3I
solvent | water | 200 ml | O | H2O
product | N-Methyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide | 1.60 g | CN(C(CC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C15H15N5O
